US07645771B2
To a solution of methyl 5-amino-2-chloro-4-fluorobenzoate (152 mg, 0.75 mmol) and pyridine (0.07 mL, 0.82 mmol) in 3 mL CH2Cl2 was added methanesulfonyl chloride (0.06 mL, 0.82 mmol). After 3 days at room temperature, the reaction mixture was washed with saturated aqueous NaHCO3 and filtered through a silica plug to provide methyl 2-chloro-4-fluoro-5-[(methylsulfonyl)amino]benzoate (96 mg, 44%) as a solid (ESI-MS 280 (M−H)), which was hydrolyzed using aqueous NaOH to provide 2-chloro-4-fluoro-5-[(methylsulfonyl)amino]benzoic acid (ESI-MS 266 (M−H)), which was used without further purification.

reactant | methyl 5-amino-2-chloro-4-fluorobenzoate | 0.75 mmol, 152 mg | NC=1C(=CC(=C(C(=O)OC)C1)Cl)F | C8H7ClFNO2
reactant | pyridine | 0.82 mmol, 0.07 mL | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 0.82 mmol, 0.06 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-chloro-4-fluoro-5-[(methylsulfonyl)amino]benzoate | 96 mg, 44% | ClC1=C(C(=O)OC)C=C(C(=C1)F)NS(=O)(=O)C | C9H9ClFNO4S
